US04294843
A solution of 3-(2-aminophenylthiomethyl)1,2,4-oxadiazole (4.2 g) in 3,4-dimethoxybenzaldehyde diethyl acetal (9.6 g) was heated under reflux for 30 minutes. On cooling and the addition of hexane yellow crystals precipitated. These were removed by filtration and re-crystallised from ethanol to give 3-[2-(3,4-dimethoxybenzylideneamino)phenylthiomethyl]-1,2,4-oxadiazole, m.p. 146°.

reactant | 3-(2-aminophenylthiomethyl)1,2,4-oxadiazole | 4.2 g | NC1=C(C=CC=C1)SCC1=NOC=N1 | C9H9N3OS
reactant | hexane | CCCCCC | C6H14
reactant | 3,4-dimethoxybenzaldehyde diethyl acetal | 9.6 g | C(C)OC(C1=CC(=C(C=C1)OC)OC)OCC | C13H20O4
product | 3-[2-(3,4-dimethoxybenzylideneamino)phenylthiomethyl]-1,2,4-oxadiazole | COC=1C=C(C=NC2=C(C=CC=C2)SCC2=NOC=N2)C=CC1OC | C18H17N3O3S
